US05366987
Synthesis of (±)-N-(2,4-difluorophenyl-5-dodecyl-α-phenyl-2H-tetrazole-2-acetamide
When in the general procedure of Example 88 an appropriate amount of (±)-5-dodecyl-α-phenyl-2H-tetrazole-2-acetic acid was substituted for 5-decyl-2H-tetrazole-2-acetic acid and 2,4-difluoroaniline was substituted for 2,6-diisopropylaniline, the title compound was obtained, mp 62°-64° C.

reactant | (±)-5-dodecyl-α-phenyl-2H-tetrazole-2-acetic acid | C(CCCCCCCCCCC)C=1N=NN(N1)C(C(=O)O)C1=CC=CC=C1 | C21H32N4O2
reactant | 5-decyl-2H-tetrazole-2-acetic acid | C(CCCCCCCCC)C=1N=NN(N1)CC(=O)O | C13H24N4O2
reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | 2,6-diisopropylaniline | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
product | 2,4-difluorophenyl-5-dodecyl-α-phenyl-2H-tetrazole-2-acetamide | FC1=C(C=CC(=C1)F)C(C(=O)N)(N1N=C(N=N1)CCCCCCCCCCCC)C1=CC=CC=C1 | C27H35F2N5O
